US04486597
A solution of 8.4 g of 3,4-dimethoxybenzaldehyde, 11.4 g of 2-carboxymalonanilic acid, and 4.3 g of piperidine in 50 ml of toluene is heated for 3 hours under reflux with continuous removal of water during the reaction period. After the completion of the reaction, the reaction mixture is cooled and the precipitated crystals are collected by filtration and dried to obtain 19.5 g of piperidinium N-(3,4-dimethoxycinnamoyl)anthranilate (94.8% yield), as confirmed by elemental analysis and spectroscopy.

reactant | 3,4-dimethoxybenzaldehyde | 8.4 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | 2-carboxymalonanilic acid | 11.4 g | C(=O)(O)C(C(=O)O)C(=O)NC1=CC=CC=C1 | C10H9NO5
reactant | piperidine | 4.3 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | piperidinium N-(3,4-dimethoxycinnamoyl)anthranilate | 19.5 g, 94.8% yield | COC=1C=C(C=CC(=O)NC=2C(C(=O)[O-])=CC=CC2)C=CC1OC.[NH2+]1CCCCC1 | InChI=1S/C18H17NO5.C5H11N/c1-23-15-9-7-12(11-16(15)24-2)8-10-17(20)19-14-6-4-3-5-13(14)18(21)22;1-2-4-6-5-3-1/h3-11H,1-2H3,(H,19,20)(H,21,22);6H,1-5H2
